US07696203B2
(e) Trifluoro-methanesulfonic acid 1-nitro-dibenzofuran-4-yl ester (11)
1-Nitro-dibenzofuran-4-ol (3.01 g; 13.36 mmol was solubilised in DCM (50 mL), cooled to −40° C. and triethylamine (5.5 mL, 40 mmol) was added. After 5 min, triflic anhydride (3.45 mL, 20 mmol) was added dropwise to the reaction mixture. The temperature of the reaction mixture was kept under −30° C. during the addition. After 3 h, the reaction mixture was washed with a saturated solution of sodium carbonate (50 mL) and extracted with DCM (3×30 mL). The organic layer was dried over magnesium sulfate and evaporated to yield a brown solid. This solid was purified on a silica plug using DCM/EP (6:4) as eluant to furnish the title compound (4.536 g, 12.56 mmol, 94%) as a white solid: Rf=0.33 (DCM-EP 1:4); mp: 102-103° C.; λmax (EtOH)/nm 243; IR (cm−1) 1643, 1572, 1528, 1488, 1427, 1348, 1317, 1246, 1209, 1132, 1068, 981, 921, 828, 792, 742, 700; 1H NMR, (300 MHz, CDCl3) δ 7.39 (1H, m); 7.55 (1H, d, J=8 Hz); 7.65 (2H, m); 8.20 (1H, d, J=8 Hz); 8.51 (1H, d, J=8 Hz); 13C NMR, (75 MHz, CDCl3) δ 112.35, 117.12 (CF3), 119.49, 120.55 (CF3), 120.75, 121.38 (CF3), 122.81 (CF3), 124.92, 126.60, 131.24, 137.88 (Cq), 142.32 (Cq), 148.21 (Cq), 157.99 (Cq); MS (EI) m/z 361.1 M+; HRMS calcd for C13H6F3NO6S [M+H]+ 360.9862, found 360.9861.

reactant | 1-Nitro-dibenzofuran-4-ol | [N+](=O)([O-])C1=CC=C(C=2OC3=C(C21)C=CC=C3)O | C12H7NO4
reactant | triethylamine | 40 mmol, 5.5 mL | C(C)N(CC)CC | C6H15N
reactant | triflic anhydride | 20 mmol, 3.45 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | Trifluoro-methanesulfonic acid 1-nitro-dibenzofuran-4-yl ester | 12.56 mmol, 4.536 g, 94% | [N+](=O)([O-])C1=CC=C(C=2OC3=C(C21)C=CC=C3)OS(=O)(=O)C(F)(F)F | C13H6F3NO6S
